US07745438B2
5-(R)-(2-(S)-Amino-1-(S)-hydroxy-3-phenylpropyl)-2-(S)-(2-cyclohexylethyl)-morpholine-4-carboxylic acid tert-butyl ester
Dissolve 2(S)-(2-cyclohexylethyl)-5-(R)-(1-(R)-hydroxy-2-(S)-nitro-3-phenylpropyl)-morpholine-4-carboxylic acid tert-butyl ester (152 mg, 0.32 mmol) in methanol (5 mL), and place in a room temperature oil bath. Add dry nickel (II) chloride (62 mg, 0.48 mmol) followed by sodium borohydride (30 mg, 0.80 mmol). After 3 minutes add a second portion of sodium borohydride (30 mg, 0.80 mmol). Quench with water (1 mL) then 0.1 N sodium hydroxide (3 mL). Dilute with ethyl acetate and extract (3×30 mL). Wash the combined extracts with saturated aqueous sodium chloride, filter through a pad of Celite®, dry (sodium sulfate) and concentrate to give the desired compound as a white solid which is used without further purification (140 mg, 99%).

reactant | 2(S)-(2-cyclohexylethyl)-5-(R)-(1-(R)-hydroxy-2-(S)-nitro-3-phenylpropyl)-morpholine-4-carboxylic acid tert-butyl ester | 0.32 mmol, 152 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC=CC=C1)[N+](=O)[O-])O)CCC1CCCCC1 | C26H40N2O6
reactant | sodium borohydride | 0.80 mmol, 30 mg | [BH4-].[Na+]
reactant | sodium borohydride | 0.80 mmol, 30 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | nickel (II) chloride | 0.48 mmol, 62 mg | [Ni](Cl)Cl
product | 5-(R)-(2-(S)-Amino-1-(S)-hydroxy-3-phenylpropyl)-2-(S)-(2-cyclohexylethyl)-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC=CC=C1)N)O)CCC1CCCCC1 | C26H42N2O4
